US07071216B2
A solution of 4-amino-3-nitro-phenol (1 eq) and 2-chloro-4-(3-pyridyl)pyrimidine (1 eq) in N,N-dimethylformamide was microwaved at 150° C. for 10 mins. The reaction mixture was partitioned between ethyl acetate and water. The organic layer was concentrated and purified on silica gel to yield 2-nitro-4-(4-(3-pyridyl)pyrimidin-2-yloxy)phenylamine. MS: MH+=309.

reactant | 4-amino-3-nitro-phenol | 1 eq | NC1=C(C=C(C=C1)O)[N+](=O)[O-] | C6H6N2O3
reactant | 2-chloro-4-(3-pyridyl)pyrimidine | 1 eq | ClC1=NC=CC(=N1)C=1C=NC=CC1 | C9H6ClN3
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 2-nitro-4-(4-(3-pyridyl)pyrimidin-2-yloxy)phenylamine | [N+](=O)([O-])C1=C(C=CC(=C1)OC1=NC=CC(=N1)C=1C=NC=CC1)N | C15H11N5O3
